US05610293
C. Synthesis of 1,4,7,11,14-Penta(p-toluenesulfonyl)-1,4,7,11,14-pentaazacyloheptadecane
To a stirred solution of 1,5,8,12-tetra(p-toluenesulfonyl)-1,5,8,12-tetraazadodecane prepared as in Example 11A (36.9 g, 0.0467 mole) in anhydrous DMF (470 ml) was added sodium hydride (2.80 g--80% in mineral oil, 0.0933 mole) in portions under a dry nitrogen blanket. The resulting mixture was stirred for 30 minutes under a dry argon atmosphere. The solution was then heated to 100° C. and a solution of 3-(p-toluenesulfonyl)-3-azapentane-1,5-di-p-toluenesulfonate prepared as in Example 11B (26.5 g, 0.0467 mole) in anhydrous DMF (230 mole) was added dropwise over a 3 h period, maintaining the temperature at 100° C. After stirring the solution an additional 1 h at 100° C., the mixture was concentrated in vacuo to a volume of 400 ml. H2O (1.5 l) was slowly added at room temperature to crystallize the product. The resulting pale yellow solid was filtered, washed thoroughly with H2O and dried in vacuo. The crude product was purified by recrystallization from CH2Cl2 -hexane to give 26.3 g (55% yield) of the product as a white crystalline solid: mp 235.5°-6.5° C. (dec.); 1H NMR (CDCl3) δ2.09 (quint, J=6.6 Hz, 4 H), 2.44 (s, 6 H), 2.45 (s, 6 H), 2.46 (s, 3 H), 3.04 (t, J=7.5 Hz, 4 H), 3.13 (t, J=7.1 Hz, 4 H), 3.23 (m, 8 H), 3.45 (m, 4 H), 7.33 (m, 10 H), 7.72 (m, 10 H).

reactant | 1,5,8,12-tetra(p-toluenesulfonyl)-1,5,8,12-tetraazadodecane | C1(=CC=C(C=C1)S(=O)(=O)NCCCN(CCN(CCCNS(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C36H46N4O8S4
reactant | sodium hydride | 0.0933 mole | [H-].[Na+]
solvent | DMF | 470 ml | CN(C)C=O | C3H7NO
solvent | DMF | 230 mole | CN(C)C=O | C3H7NO
product | 1,4,7,11,14-Penta(p-toluenesulfonyl)-1,4,7,11,14-pentaazacyloheptadecane | 26.3 g, 55% yield | C1(=CC=C(C=C1)S(=O)(=O)N1CCN(CCN(CCCN(CCN(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C47H59N5O10S5
